parameters vcm=600m vout_dc=712.5m
subckt amp (VINN VINP VOUT vdd vss)
M1a (n01 VINP n02 vss) nch_lvt l=280n w=3.328u
M1b (VOUT VINN n02 vss) nch_lvt l=280n w=3.328u
M2a (n01 n01 vdd vdd) pch_lvt l=389.1n w=1.296u
M2b (VOUT n01 vdd vdd) pch_lvt l=389.1n w=1.296u
M3 (n02 vbn vss vss) nch_lvt l=130n w=217.9n
VBN (vbn vss) vsource dc=564.6m
ends amp
